US07148226B2
6-cyclopentyl-3-[(5,7-diethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-[2-(4-hydroxy-3-propylphenyl)ethyl]-5,6-dihydro-2H-pyran-2-one
The title compound was prepared analogously to Example A(131), where 6-cyclopentyl-6-[2-(4-hydroxy-3-propylphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione was substituted in place of 6-cyclopentyl-6-[2-(3-fluoro-4-{methyl[methyl(dimethylene)-sulfanyl]amino}phenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione and 5,7-diethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde. 1H NMR (CDCl3): δ 1.00 (t, J=7.54 Hz, 3H), 1.40–1.80 (brm, 16H), 2.00–2.18(m, 5H), 2.59 (m, 2H), 2.73 (m, 4H), 2.95 (m, 2H), 4.00 (s, 2H), 6.67 (d, J=5.78 Hz, 1H), 6.95 (m, 2H), 7.21 (s, 1H). Anal. Calcd. For C32H40O4N4: C, 70.56; H, 7.40; N, 10.29. Found: C, 70.23; H, 7.69; N, 10.31.

reactant | 6-cyclopentyl-6-[2-(4-hydroxy-3-propylphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)O)CCC | C21H28O4
reactant | 5,7-diethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)C=O | C10H12N4O
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
product | 6-cyclopentyl-3-[(5,7-diethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-[2-(4-hydroxy-3-propylphenyl)ethyl]-5,6-dihydro-2H-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2CC)CC)=N1)O)CCC1=CC(=C(C=C1)O)CCC | C31H40N4O4
